* C:\Users\berto\NotSync\GitHub\Laboratorio_3\Esperienza_01\Diodo\circuito_3_lab_1.asc
V1 N002 0 SINE(0 5 10k)
R1 N001 A 1k
R3 B 0 1k
R2 B A 1k
R4 OUT B 100k
D1 OUT N003 myDiode
V2 N003 0 2.5
C1 A N002 0.47µ
V3 N001 0 12
.model D D
.lib C:\Users\berto\OneDrive\Documenti\LTspiceXVII\lib\cmp\standard.dio
.tran 1ms
.model myDiode D(Is=1.9312n N=1.822 mfg=unipd type=silicon Vfwd=0.509321)
.backanno
.end
